US05654472
Synthesis of 1,3-dipropionyloxy-2-(2,4-difluorophenyl)-2-propanol (according to Reaction formula 2)
In 30 ml of pyridine was dissolved 3.06 g of 2-(2,4-difluorophenyl)-1,2,3-propanetriol and thereto was added dropwise 4.29 g of propionic anhydride and stirred at room temperature for 6 hours. To thus obtained reaction liquid was added 100 ml of ethyl acetate and the organic layer was separated. The organic layer was washed with 1N HCl and further washed with water and saturated aqueous solution with sodium chloride. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure. Thus obtained concentrate was purified by means of column chromatography on silica gel (hexane/ethyl acetate=2/1) to give 4.55 g of the oily desired compound.

reactant | 2-(2,4-difluorophenyl)-1,2,3-propanetriol | 3.06 g | FC1=C(C=CC(=C1)F)C(CO)(CO)O | C9H10F2O3
reactant | propionic anhydride | 4.29 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-dipropionyloxy-2-(2,4-difluorophenyl)-2-propanol | 4.55 g | C(CC)(=O)OCC(COC(CC)=O)(O)C1=C(C=C(C=C1)F)F | C15H18F2O5
